US04173640
D. trans-1,2,3,4-Tetrahydro-3-[(1-methyl-2-piperidinyl)-methyl]-2-naphthalenol
trans-1,2,3,4-Tetrahydro-3-(2-piperidinylmethyl)-2-naphthalenol from Part D (21.5 g, 0.088 M) is dissolved in 20 ml 35% formaldehyde solution and 50 ml 98% formic acid. The mixture is heated overnight on a steam bath. The solution is taken to near dryness in vacuo. The residue is dissolved in water and basified with 50% NaOH solution. The material is extracted into chloroform, dried and the solvent is removed leaving a brown oil which shows a strong peak in the carbonyl region on the IR. This is dissolved in ethanol, NaOH solution is added and the mixture is heated for a few minutes on a steam bath. After diluting with ice water the mixture is extracted twice with ether. The ether extracts are dried and the solvent is removed leaving 23 g (quant) of the title compound.

reactant | trans-1,2,3,4-Tetrahydro-3-(2-piperidinylmethyl)-2-naphthalenol | N1C(CCCC1)C[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C16H23NO
reactant | formaldehyde | 20 ml | C=O | CH2O
solvent | formic acid | 50 ml | C(=O)O | CH2O2
solvent | water | O | H2O
solvent | NaOH | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | trans-1,2,3,4-Tetrahydro-3-[(1-methyl-2-piperidinyl)-methyl]-2-naphthalenol | CN1C(CCCC1)C[C@H]1[C@@H](CC2=CC=CC=C2C1)O | C17H25NO
